US07101880B2
1,1′-Thiocarbonyldiimidazole (0.980 g, 5.50 mmol, 1.2 equiv.) was dissolved in CH2Cl2 (200 mL), followed by addition of diisopropylethylamine (3.2 mL), and trifluoroethylamine hydrochloride (0.620 g, 4.58 mmol, 1.0 equiv.). The solution was stirred for 1 h at ambient temp, then 2-amino-N-[1-(benzoxazol-2-ylhydroxymethyl)-propyl]-3-phenylmethanesulfonylpropionamide was added in one portion. After stirring overnight, the reaction mixture was diluted with EtOAc (150 mL), washed with saturated bicarb, brine, dried over MgSO4. Purification with flash chromatography (50% ETOAc/hexanes as eluent) afforded N-[1-(benzoxazol-2-ylhydroxymethyl)-propyl]-3-phenylmethanesulfonyl-2-[3-(2,2,2-trifluoroethyl)thioureido]propionamide (0.720 g) as a mixture of diasteomers.

reactant | 1,1′-Thiocarbonyldiimidazole | 5.50 mmol, 0.980 g, 1.2 equiv. | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | diisopropylethylamine | 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroethylamine hydrochloride | 4.58 mmol, 0.620 g, 1.0 equiv. | Cl.FC(CN)(F)F
reactant | 2-amino-N-[1-(benzoxazol-2-ylhydroxymethyl)-propyl]-3-phenylmethanesulfonylpropionamide | NC(C(=O)NC(CC)C(O)C=1OC2=C(N1)C=CC=C2)CS(=O)(=O)CC2=CC=CC=C2 | C21H25N3O5S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | N-[1-(benzoxazol-2-ylhydroxymethyl)-propyl]-3-phenylmethanesulfonyl-2-[3-(2,2,2-trifluoroethyl)thioureido]propionamide | 0.720 g | O1C(=NC2=C1C=CC=C2)C(C(CC)NC(C(CS(=O)(=O)CC2=CC=CC=C2)NC(=S)NCC(F)(F)F)=O)O | C24H27F3N4O5S2
